US08349824B2
1,2-Diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate (15.6 g, 40.2 mmole) in pyridine (106 ml) is heated overnight at 100° C. with benzoyl chloride (9.4 ml, 80 mmole) giving a redbrown solution and after 2 hrs a brown suspension. The reaction mixture is concentrated in vacuo and the residue is triturated for 2.5 hr in sat. aqueous ammonium chloride solution (300 ml), while neutralizing to pH 6-7 with sat. aqueous sodium bicarbonate solution. The solid is collected by filtration, washed with water (40 ml) and dried affording 7-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine (6.78 g, 61.6%) as an off-white solid. mp.: 189-191° C. MS: m/z=276.1, 274.2 (M+H+).

reactant | 1,2-Diamino-4-bromopyridinium 2,4,6-trimethylbenzenesulfonate | 40.2 mmole, 15.6 g | CC1=C(C(=CC(=C1)C)C)S(=O)(=O)[O-].N[N+]1=C(C=C(C=C1)Br)N
reactant | benzoyl chloride | 80 mmole, 9.4 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 106 ml | N1=CC=CC=C1 | C5H5N
product | 7-bromo-2-phenyl-[1,2,4]triazolo[1,5-a]pyridine | 6.78 g, 61.6% | BrC1=CC=2N(C=C1)N=C(N2)C2=CC=CC=C2 | C12H8BrN3
